US07427630B2
1,1-Dimethylethyl (4-bromo-2-methylphenyl)carbamate
To a solution of 4-bromo-2-methylaniline (1 g, 5.37 mmol,) in 1,4-dioxane (11 mL) and H2O (4 mL), at r.t., were added Et3N (2.7 mL, 1.2 eq) and BOC2O (4.2 g, 1.2 eq). The reaction mixture was stirred at r.t. for 96 hr. Sat.aq. NH4Cl and EtOAc (20 mL) were added and the phases were separated. The aqueous layer was further extracted with EtOAc (2×20 mL). The combined organic extracts were dried over anh. Na2SO4, the solids were filtered and the solvent evaporated. The residue was purified on an SCX cartridge (CH2Cl2, MeOH and NH3(0.5 M in MeOH)) to give the title compound as a white solid (1.22 g, 79%).

reactant | 4-bromo-2-methylaniline | 5.37 mmol, 1 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | Et3N | 2.7 mL, 1.2 eq | CCN(CC)CC | C6H15N
reactant | BOC2O | 4.2 g, 1.2 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | 1,4-dioxane | 11 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 4 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl (4-bromo-2-methylphenyl)carbamate | 1.22 g, 79% | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)C | C12H16BrNO2
